US07851629B2
4-(2,3-dichlorophenyl)-1-propyl-1,2,3,6-tetrahydropyridine
Preparation according to preparation 10: 4-(2,3-dichlorophenyl)pyridine (1.0 g, 4.46 mmol), 1-iodopropane (6 ml), ethanol (60 ml), sodium borohydride (1.5 g, 44 mmol). Yield: 0.45 g. MS m/z (rel. intensity, 70 eV) 271 (M+, 16), 269 (M+, 28), 242 (62), 240 (bp), 127 (11).

reactant | 4-(2,3-dichlorophenyl)pyridine | 4.46 mmol, 1.0 g | ClC1=C(C=CC=C1Cl)C1=CC=NC=C1 | C11H7Cl2N
reactant | 1-iodopropane | 6 ml | ICCC | C3H7I
reactant | sodium borohydride | 44 mmol, 1.5 g | [BH4-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-(2,3-dichlorophenyl)-1-propyl-1,2,3,6-tetrahydropyridine | ClC1=C(C=CC=C1Cl)C=1CCN(CC1)CCC | C14H17Cl2N
